US06916982B2
4-Bromo-2,5-di-tert-butylaniline.
Bromine (271 μL, 5.29 mmol) was added dropwise via syringe to a solution of 2,5-di-tert-butylaniline (1.09 g, 5.29 mmol) in methanol (80 mL). The solution was stirred at room temperature for 10 min. Chloroform and 0.1 N NaOH were added and the organic layer was dried (Na2SO4), filtered and concentrated to a pale yellow solid (1.46 g, 97%): mp 89-90° C.; 1H NMR δ1.38 (s, 9H), 1.45 (s, 9H), 3.77 (brs, 2H), 6.68 (s, 1H), 7.35 (s, 1H); 13C NMR δ29.4, 29.7, 33.7, 35.8, 111.0, 117.4, 133.1, 133.8, 143.3, 145.9; FAB-MS obsd 283.0936; calcd 283.0937; Anal calcd for C14H22BrN: C, 59.16; H, 7.80; Br, 28.11; Found, C, 59.33; H, 7.78; Br, 27.86.

reactant | Bromine | 5.29 mmol, 271 μL | BrBr | Br2
reactant | 2,5-di-tert-butylaniline | 5.29 mmol, 1.09 g | C(C)(C)(C)C1=C(N)C=C(C=C1)C(C)(C)C | C14H23N
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | NaOH | 0.1 N | [OH-].[Na+]
solvent | methanol | 80 mL | CO | CH4O
product | 4-Bromo-2,5-di-tert-butylaniline | BrC1=CC(=C(N)C=C1C(C)(C)C)C(C)(C)C | C14H22BrN
